US04489089
A mixture of 6.3 g. of sodium imidazole, 100 ml. of dimethylformamide and 19.7 g. of N-(4-bromobutyl)-phthalimide was heated on a steam bath for 6 hours and then concentrated to remove volatile material. The residue was boiled with 150 ml. of toluene and the toluene layer was decanted and concentrated. The residue was triturated with diethyl ether and cooled, giving N-[4-(1H-imidazol-1-yl)butyl]-isoindole-1,3(2H)-dione (m.p. 75°-77° C.) which was recovered by filtration.

reactant | sodium imidazole | N1C=NC=C1.[Na]
reactant | N-(4-bromobutyl)-phthalimide | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[4-(1H-imidazol-1-yl)butyl]-isoindole-1,3(2H)-dione | N1(C=NC=C1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C15H15N3O2
